US05037824
Ethyl 2-methyl-6-(2-morpholinoethylcarbamoyl)-4-(3-nitrophenyl)-3-pyridinecarboxylate, which was obtained according to a similar manner to that of Example 11 from 5-ethoxycarbonyl-6-methyl-4-(3-nitrophenyl)-2--pyridinecarboxylic acid (1.3 g) and 2-morpholinoethylamine (1.28 g), was treated with a solution of hydrogen chloride in ethanol to give ethyl 2-methyl-6-(2-morpholinoethylcarbamoyl)-4-(3-nitrophenyl)-3-pyridinecarboxylate dihydrochloride (1.2 g).

reactant | 5-ethoxycarbonyl-6-methyl-4-(3-nitrophenyl)-2--pyridinecarboxylic acid | 1.3 g | C(C)OC(=O)C=1C(=CC(=NC1C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C16H14N2O6
reactant | 2-morpholinoethylamine | 1.28 g | O1CCN(CC1)CCN | C6H14N2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-methyl-6-(2-morpholinoethylcarbamoyl)-4-(3-nitrophenyl)-3-pyridinecarboxylate dihydrochloride | 1.2 g | Cl.Cl.CC1=NC(=CC(=C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(NCCN1CCOCC1)=O | InChI=1S/C22H26N4O6.2ClH/c1-3-32-22(28)20-15(2)24-19(21(27)23-7-8-25-9-11-31-12-10-25)14-18(20)16-5-4-6-17(13-16)26(29)30;;/h4-6,13-14H,3,7-12H2,1-2H3,(H,23,27);2*1H
